US05055458
Bromotrimethylsilane (1.43 ml, 10.9 mmol) was added to a solution of 2-amino-9-[3-(diethoxyphosphorylmethoxy)-2-hydroxypropoxy]-6-methoxypurine (220 mg, 0.54 mmol) in dichloromethane (10 ml) and then stirred at 20° C. for 16 h. The reaction mixture was evaporated in vacuo and co-evaporated with toluene. The residue was recrystallised from water-acetone affording 9-[2-hydroxy-3-(phosphonomethoxy)propoxy]guanine (131 mg, 72%) as a white solid m.p. 245°-247° C., decomp. λmax (H2O) 252 (ε13,200)nm; νmax (KBr) 3400, 3300, 1720, 1640, 1590 and 1380 cm-1 ; δH [(CD3)2SO] 3.58 (2H, m, CH2OCH2P), 3.60 (2H, d, J8.5 Hz, CH2P), 3.91 (1H, m, CHOH), 4.17 (1H, m, CH2ON), 4.30 (1H, m, CH2ON), 6.64 (2H, br.s, D2O exchangeable, NH2), 7.93 (1H, s, H-8), 10.63 (1H, br.s, D2O exchangeable, NH); m/z (FAB+ve Ion), 336 (MH+). Found: C, 32.32; H, 4.08; N, 20.66%; C9H14N5O7P requires C, 32.25; H, 4.21; N, 20.89%.

reactant | Bromotrimethylsilane | 10.9 mmol, 1.43 ml | Br[Si](C)(C)C | C3H9BrSi
reactant | 2-amino-9-[3-(diethoxyphosphorylmethoxy)-2-hydroxypropoxy]-6-methoxypurine | 0.54 mmol, 220 mg | NC1=NC(=C2N=CN(C2=N1)OCC(COCP(=O)(OCC)OCC)O)OC | C14H24N5O7P
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 9-[2-hydroxy-3-(phosphonomethoxy)propoxy]guanine | 131 mg, 72% | OC(CON1C=2N=C(NC(C2N=C1)=O)N)COCP(=O)(O)O | C9H14N5O7P
